US06388084B1
To a suspension of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (22 mg, 0.048 mmol) in ethanol (1 mL) was added 1N aqueous sodium hydroxide solution (0.5 mL) at room temperature. The resulting solution was heated to 40-45° C. and stirred for 2 h. Then, the ethanol was removed under vacuum and the residue was diluted with water (25 mL). The aqueous solution was washed with diethyl ether (25 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted into ethyl acetate (2×25 mL). The combined extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration afforded 18 mg (86% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine as an amorphous white solid. ES-HRMS m/e calcd for C24H23ClN2O4 (M+H) 439.1419, found 439.1425.

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.048 mmol, 22 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | C25H25ClN2O4
reactant | sodium hydroxide | 1N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine | 18 mg, 86% yield | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)C(=O)O | C24H23ClN2O4
